US07919488B2
4-(5-(4-fluorobenzyl)-1-{2-[4-(methylsulfonyl)piperidin-1-yl]-2-oxoethyl}-1H-pyrazol-3-yl)pyridine
To a solution of [5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetic acid (150 mg, 0.48 mmol) in DMA (3 mL) at room temperature was added HOBt (72 mg, 0.53 mmol), EDCI (102 mg, 0.53 mmol), NMM (0.13 mL, 1.20 mmol) and 4-(methylsulfonyl)piperidine (117 mg, 0.72 mmol) and the mixture sonicated to a fine suspension and stirred for 18 hours at room temperature. The volatiles were removed under high vacuum and the residue partitioned between EtOAc (70 mL) and water (25 mL). The aqueous layer was removed and the organics washed with NaHCO3 (30 mL), brine (30 mL), dried over MgSO4, filtered and stripped to yield the title compound as an off-white solid, 144 mg, 66%. 1H NMR (400 MHz, DMSO-D6) δ ppm 8.46-8.56 (2 H, m), 7.60-7.71 (2 H, m), 7.25-7.37 (2 H, m), 7.07-7.19 (2 H, m), 6.53 (1 H, s), 5.10-5.41 (2 H, m), 4.40 (1 H, d, J=13.14 Hz), 3.97-4.15 (1 H, m), 3.95 (2 H, s), 3.34-3.49 (1 H, m), 3.12 (1 H, t, J=12.00 Hz), 2.96 (3 H, s), 2.64 (1 H, t, J=11.62 Hz), 2.06 (2 H, d, J=12.88 Hz), 1.59-1.79 (1 H, m), 1.36-1.54 (1 H, m); m/z (APCI+) for C23H25N4O3F 457.1 (M+H)+.

reactant | [5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetic acid | 0.48 mmol, 150 mg | FC1=CC=C(CC2=CC(=NN2CC(=O)O)C2=CC=NC=C2)C=C1 | C17H14FN3O2
reactant | HOBt | 0.53 mmol, 72 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.53 mmol, 102 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | NMM | 1.20 mmol, 0.13 mL | CN1CCOCC1 | C5H11NO
reactant | 4-(methylsulfonyl)piperidine | 0.72 mmol, 117 mg | CS(=O)(=O)C1CCNCC1 | C6H13NO2S
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
product | 4-(5-(4-fluorobenzyl)-1-{2-[4-(methylsulfonyl)piperidin-1-yl]-2-oxoethyl}-1H-pyrazol-3-yl)pyridine | FC1=CC=C(CC2=CC(=NN2CC(=O)N2CCC(CC2)S(=O)(=O)C)C2=CC=NC=C2)C=C1 | C23H25FN4O3S
